US07141565B1
Ethyl-(2′,3′,4′,5′-tetrafluorobenzoyl)-ethanoate
Potassium ethyl malonate (3.66 g, 21.5 mmol), MgCl2 (2.44 g, 25.7 mmol) and TEA (2.05 g, 20.3 mmol) were mixed in acetonitrile (70 ml) at 10–15° C. for 2.5 hr. 2,3,4,5-tetrafluorobenzoyl chloride (2.00 g, 10.3 mmol) in acetonitrile (10 ml) was added at 0° C. over 15 min followed by a second addition of TEA (0.23 g, 2.3 mmol). After allowing to warm to RT, the mixture was stirred for 16 hr. After removal of volatiles in vaccuo Toluene (30 ml) was added and removed in vacuo. Following the addition of toluene (60 ml), HCl 1.5 M (40 ml) was added cautiously, ensuring the temperature did not exceed 25° C. The organic fraction was washed with HCl 1.5 M (2×25 ml) and water (2×25 ml), dried over MgSO4 and reduced to a light orange oil in vacuo ([M+1]+ 265, 98%).

reactant | Potassium ethyl malonate | 21.5 mmol, 3.66 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | MgCl2 | 25.7 mmol, 2.44 g | [Mg+2].[Cl-].[Cl-]
reactant | 2,3,4,5-tetrafluorobenzoyl chloride | 10.3 mmol, 2.00 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl-(2′,3′,4′,5′-tetrafluorobenzoyl)-ethanoate | C(C)OC(CC(C1=C(C(=C(C(=C1)F)F)F)F)=O)=O | C11H8F4O3
